US06656952B2
3-(S)-tert-Butoxycarbonylamino-4-(S)-fluoromethylpyrrolidine
10% Palladium on carbon catalyst (640 mg) was added to an ethanol (15 ml) solution of 3-(S)-tert-butoxycarbonylamino-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]pyrrolidine (644 mg, 2.00 mmol), and the mixture was subjected to 2 hours of catalytic hydrogenation at 50° C. After removal of the catalyst by filtration, the solvent in the resulting filtrate was evaporated, and the thus obtained residue was mixed with 10% citric acid aqueous solution and washed with dichloromethane (15 ml×3) and diethyl ether (15 ml×1). The aqueous layer was adjusted to pH 10 to 11 with 1N sodium hydroxide aqueous solution and then extracted with chloroform (50 ml×4). The organic layer was dried over sodium sulfate, the solvent was evaporated and then the resulting residue was purified by recrystallizing it from a chloroform-n-hexane mixed solvent to give 344 mg (79%) of the title compound in the form of white crystals.

reactant | 3-(S)-tert-butoxycarbonylamino-4-(S)-fluoromethyl-N-[1-(R)-phenylethyl]pyrrolidine | 2.00 mmol, 644 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1CF)[C@H](C)C1=CC=CC=C1 | C18H27FN2O2
catalyst | Palladium on carbon | 640 mg | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(S)-tert-Butoxycarbonylamino-4-(S)-fluoromethylpyrrolidine | 344 mg, 79% | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1CF | C10H19FN2O2
